US07902377B2
Preparation of (±)-5-[1-(2,3-dimethylphenyl)ethyl]-1H-imidazole hydrochloride
5-[1-(2,3-dimethylphenyl)ethyl]-1H-imidazole hydrochloride hydrate (89 g), acetone (855 mL) and water (34 mL) were mixed in a 2-liter flask, fitted with a thermometer and a reflux condenser. The reaction mixture was heated to 56-58° C. for 15 minutes, at which point it was filtered. The filtrate was at first cooled to 20-30° C. over 1 to 1.5 hours, and then it was cooled to 0 to −10)° C. for 2.5 to 3.5 hours.

reactant | 5-[1-(2,3-dimethylphenyl)ethyl]-1H-imidazole hydrochloride hydrate | 89 g | O.Cl.CC1=C(C=CC=C1C)C(C)C1=CN=CN1
reactant | acetone | 855 mL | CC(=O)C | C3H6O
solvent | water | 34 mL | O | H2O
product | (±)-5-[1-(2,3-dimethylphenyl)ethyl]-1H-imidazole hydrochloride | Cl.CC1=C(C=CC=C1C)C(C)C1=CN=CN1 | InChI=1S/C13H16N2.ClH/c1-9-5-4-6-12(10(9)2)11(3)13-7-14-8-15-13;/h4-8,11H,1-3H3,(H,14,15);1H
